Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Low back pain
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ y/o F with a h/o ataxia due to idiopathic cerebellar disease 
who is presenting for evaluation of fall ___ days ago and low 
back pain. Pt was in ___ until ___, and was 
diagnosed with a viral upper respiratory infection while there 
(URI symptoms have resolved). On ___, she had generalized 
weakness, and a fall while trying to lay back down on the bed, 
without headstrike or LOC. She landed on her backside. She has 
since had midline lumbar and paraspinal lumbar pain, getting 
worse since then. XR in the ___ ___ negative. She 
apparently had a physician visiting her home in the ___ ___ was 
giving her IV Pain medications. She reports urinary incontinence 
(cannot make the bathroom in time) and bowel incontinence as 
well. Denies dysuria or hematuria.
In the ED she endorsed bowel and bladder incontinence, though 
reportedly this was in the setting of racing to the bathroom and 
being unable to make it in time. Denies n/v, though has had PO 
intake.
In the ED, initial vitals were: 98.2, 84, 163/89, 18, 100% RA
Exam notable for: Neurologically intact, intact rectal tone
Labs notable for: WBC 18.3 with neutrophilia
Imaging notable for: CT spine with L1 compression fracture
Spine was consulted and recommended: TLSO, ___, pain control, OK 
to eat
Patient was given: IV Morphine x2, IV Dilaudid x1
On the floor, confirms above story with no new complaints.
 
Past Medical History:
Ataxia secondary to progressive cerebellar degeneration of 
unknown etiology
Appendectomy
Cholecystectomy
Hysterectomy
Hemicolectomy
Diverticular Disease
C-Section
Urticaria
 
Social History:
___
Family History:
N/A
 
Physical Exam:
ADMISSION EXAM:
Vital Signs: 98.3, 127 / 65, 72, 18, 97 RA
General: Alert, oriented x3, in obvious discomfort
HEENT: Sclera anicteric, oropharynx clear, EOMI, PERRL
Neck: supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no edema
Neuro: CNII-XII intact, ___ strength bilateral lower extremities 
but limited by pain. Normal sensation to pinprick bilateral 
___.

DISCHARGE EXAM:
VS - 98.6 123/58 76 18 98%RA
General: Alert, oriented x3, NAD. Resting comfortably in bed.
HEENT: PERRL, MMM. No oropharyngeal erythema/exudates. EOMI. No 
nystagmus appreciated.
Neck: supple, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi. Limited by brace.
Abdomen: Soft, non-tender, non-distended. +BS in lower abdomen.
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no edema
Neuro: CNII-XII intact, ___ strength bilateral lower extremities 
but limited by pain. Normal sensation to pinprick bilateral 
___. Vertigo elicited with movement of head.
Back: Tender to palpation along L1 in spine, otherwise 
nontender.
 
Pertinent Results:
ADMISSION LABS:
___ 09:00AM   GLUCOSE-131* UREA N-15 CREAT-0.5 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-27 ANION GAP-15
___ 09:00AM   WBC-18.6*# RBC-4.52 HGB-12.9 HCT-40.6 MCV-90 
MCH-28.5 MCHC-31.8* RDW-15.0 RDWSD-49.5*
___ 09:00AM   NEUTS-89.2* LYMPHS-7.5* MONOS-2.0* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-16.55* AbsLymp-1.40 AbsMono-0.37 
AbsEos-0.00* AbsBaso-0.03
___ 09:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:00AM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1

INTERIM LABS:
___ 05:41AM BLOOD WBC-16.7* RBC-3.99 Hgb-11.5 Hct-36.1 
MCV-91 MCH-28.8 MCHC-31.9* RDW-14.9 RDWSD-49.6* Plt ___
___ 05:41AM BLOOD ALT-30 AST-15 AlkPhos-78 TotBili-0.6

DISCHARGE LABS:
___ 07:09AM BLOOD WBC-12.1* RBC-4.04 Hgb-11.6 Hct-35.8 
MCV-89 MCH-28.7 MCHC-32.4 RDW-14.7 RDWSD-47.7* Plt ___
___ 07:09AM BLOOD Glucose-129* UreaN-11 Creat-0.4 Na-136 
K-4.4 Cl-98 HCO3-25 AnGap-17

MICROBIOLOGY:
Drawn ___:
Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    OF TWO COLONIAL 
MORPHOLOGIES. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ 2047 ON ___ 
- ___. 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.

Daily surveillance blood cultures ___ remained no growth to 
date.

IMAGING/STUDIES:
MRI L-Spine w/o Contrast (___)
IMPRESSION: 
1.  Acute/subacute compression fracture identified at superior 
endplate of L1 as described detail above with minimal anterior 
thecal sac the fed, extending towards the left pedicle with no 
significant retropulsion.
2.  Relatively stable and unchanged multilevel, multifactorial 
degenerative changes throughout the lumbar spine.
 
CXR PA/Lateral ___:
IMPRESSION: 
No acute intrathoracic process.

CT Lumbar Spine ___:
IMPRESSION: 
1. 2 column L1 superior endplate compression deformity with 
minimal bony retropulsion.
2. Degenerative disease involving the lower lumbar facet joints 
with grade 1 anterolisthesis of L3 on L4.

 
Brief Hospital Course:
This is a ___ female with PMHx progressive cerebellar 
disorder of unknown etiology who presented to the ED with low 
back pain, found to have compression fracture of L1 vertebrae 
after a fall one week prior. Patient was seen by the Spine team 
who recommended TLSO brace. Patient was given oxycodone ___ 
Q4hrs PRN with good control of pain. Patient was evaluated by 
physical therapy who recommended rehab. However, placement was 
complicated by patient's current lack of health insurance, and 
she was ultimately discharged home with free ___ ___. 

# L1 Fracture: Patient presented to the ED for evaluation of low 
back pain s/p mechanical fall from standing on to a bed. She has 
a history of chronic back pain ___ degenerative changes, however 
her pain was acutely worsened following her fall. MRI and CT of 
the lumbar spine showed acute on chronic L1 compression 
fracture. Ortho spine team was consulted that recommended TLSO 
brace. Patient was admitted to be fitted for the brace and for 
pain control. She remained neurologically intact with no signs 
of cord compression throughout the admission. Pain was 
controlled with PRN oxycodone and acetaminophen. Given concern 
for osteoporosis/pathological fracture given the low impact of 
the patient's reported fall, she was started on VitaminD 1000mg 
daily. Physical therapy evaluated the patient and recommended 
___ rehab, however, since the patient was uninsured, the 
decision was made to arranged for 2 sessions of home ___. Patient 
was discharged home with a short script for oxycodone and her 
TLSO brace to follow up in 1 week with her PCP.

# Staphlococcus Bacteremia: On hospital day 1 of admission, 
blood cultures obtained the previous day in the ED grew gram 
positive cocci in clusters in 1 out of 4 bottles drawn. Patient 
was started empirically on vancomycin. Daily surveillance 
cultures were drawn without any further growth. Final speciation 
of the positive bottle showed coagulase negative staph, most 
consistent with skin flora contaminant. Throughout, patient 
remained afebrile and hemodynamically stable. Therefore, 
vancomycin was discontinued and patient continued to do well 
without antibiotic therapy. 

#Leukocytosis: On admission, patient was also found to have a 
leukocytosis with a WBC count of 18. CT/MRI imaging were 
negative for signs of osteomyelitis. UA was negative for signs 
of infection. CXR was negative for PNA. Patient did report 
history of flu-like, upper respiratory infection that began 
approximately 1 week prior to arrival. Her symptoms were 
resolving. Her bacteremia was felt to be a skin flora 
contamination to blood cultures. Therefore, it was felt 
leukocytosis was a possible stress response to her fracture vs 
residual abnormality from a presumed viral illness prior to 
admission. Patient remained afebrile. No other intervention was 
pursued. 

#Vertigo: Patient has a history of chronic cerebellar 
dysfunction. On hospital day 5, she began to complain of vertigo 
and dizziness, consistent with vertigo she had had in the past. 
The vertigo was worst with positional changes and head movement. 
Denies nausea/vomiting. Neuro exam was repeatedly negative for 
other abnormalities. Symptoms were felt to be secondary to her 
chronic cerebellar dysfunction. She was given PRN meclizine with 
good effect and discharged with a short prescription of 
meclizine until she was able to follow up with her PCP. 

# GERD: Chronic issue. Continued on home dose of omeprazole 
without active issues. 

TRANSITIONAL ISSUES:
[ ] Follow up at ___ w/ Dr. ___.
[ ] Follow up with PCP. 
[ ] PCP to consider endocrinology referral for ?pathologic 
fracture/concern for osteoporosis
[ ] Follow up vertigo, given prn meclizine.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 
2. Ibuprofen Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day as needed Disp #*60 Capsule Refills:*0 
2.  Meclizine 12.5 mg PO TID:PRN vetigo, dizziness 
RX *meclizine 12.5 mg 1 tablet(s) by mouth TID PRN Disp #*15 
Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth Every 4 hours as needed 
Disp #*30 Capsule Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth BID as needed 
Disp #*60 Tablet Refills:*0 
5.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 2 tablet(s) by mouth 
daily Disp #*60 Tablet Refills:*0 
6.  Omeprazole 40 mg PO DAILY  
7.Outpatient Physical Therapy
Diagnosis: L1 Spinal Fracture
ICD-10: S32.0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
L1 Compression Fracture
Ataxia secondary to progressive cerebellar degeneration of 
unknown etiology  

Secondary Diagnosis: 
Appendectomy
Cholecystectomy
Hysterectomy
Hemicolectomy
Diverticular Disease
C-Section
Urticaria  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___.

Why you were in the hospital:
- You were admitted to the hospital because you have a 
compression fracture of the L1 vertebrae of your spine. 
- This likely happened when you fell about 1 week ago. 

What was done while you were in the hospital:
- You were given a brace from the Spine doctors to support your 
back.
- You received pain medicine to control your back pain.

What you should do when you go home:
- Please expect a call from physical therapy to set up the 
appointments next week
- Follow up with your primary ___ doctor. 
- Follow up with Dr. ___ at the Spine clinic.

It was a pleasure taking ___ of you at ___.

___,
Your ___ ___ Team

 
Followup Instructions:
___